US08183262B2
6-Methyl-6′-[3-(pyrrolidine-1-sulfonyl)-phenyl]-4-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl
The title compound was prepared from 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl chloride (example I.2) (0.300 g, 0.613 mmol) by treatment with pyrrolidine (0.131 mg, 1.84 mmol) in THF (5 mL) at 23° C. for 16 h. Diluted with EtOAc, washed with 5% citric acid, sat. NaHCO3-sol. and brine, dried organic layer over Na2SO4. Removal of the solvent in vacuum left a crude product, which was purified by silica gel column chromatography with EtOAc followed by trituration with diethyl ether/heptane to give the title compound (0.230 g, 71%) as a white solid. MS (ISP) 524.3 [(M+H)+]; mp 174° C.

reactant | 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl chloride | 0.613 mmol, 0.300 g | CC1=CC(=CC(=N1)C1=NC(=CC=C1)C=1C=C(C=CC1)S(=O)(=O)Cl)C1=CC=C(C=C1)C(F)(F)F | C24H16ClF3N2O2S
reactant | pyrrolidine | 1.84 mmol, 0.131 mg | N1CCCC1 | C4H9N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Methyl-6′-[3-(pyrrolidine-1-sulfonyl)-phenyl]-4-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl | 0.230 g, 71% | CC1=CC(=CC(=N1)C1=NC(=CC=C1)C1=CC(=CC=C1)S(=O)(=O)N1CCCC1)C1=CC=C(C=C1)C(F)(F)F | C28H24F3N3O2S
